US04499299
c. Methyl 4-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamate
A mixture of 1.0 g (5.15 g) of 2,4-dihydroxy-3-propylacetophenone, 1.58 g (6.18 mmol) of methyl 4-bromomethylcinnamate and 0.85 g (6.18 mmol) of anhydrous potassium carbonate in 20 ml of acetone was stirred at reflux for 18 hours. Ether extraction gave 1.01 g of the title compound as a light yellow powder mp 121°-125° C.

reactant | 2,4-dihydroxy-3-propylacetophenone | 1.0 g | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | methyl 4-bromomethylcinnamate | 6.18 mmol, 1.58 g | BrCC1=CC=C(C=CC(=O)OC)C=C1 | C11H11BrO2
reactant | potassium carbonate | 6.18 mmol, 0.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | Methyl 4-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamate | 1.01 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=CC(=O)OC)C=C2)C=C1)CCC)O | C22H24O5
